US05229095
A process for producing amorphous sodium silicates having a water content of 0.3 to 6% by weight and an SiO2 /Na2O molar ratio of (1.9 to 2.8) : 1 from a waterglass solution containing at least 20% by weight of solids, the water-glass solution is obtained by reacting quartz sand with sodium hydroxide solution at an SiO2 /Na2O molar ratio of (2.0 to 2.8) : 1 at temperatures of 180 to 240° C. and pressures of 10 to 30 bar. This waterglass solution is treated in a spray-drying zone with hot air at 200 to 300° C. for a residence time of 10 to 20 seconds and at a temperature of the exit gas leaving the spray-drying zone of 90° to 130° C., to form a pulverulent amorphous sodium silicate having a water content (determined as the loss on ignition at 700° C.) of 15 to 23% by weight and a bulk density of more than 300 g/l. The pulverulent sodium silicate is introduced into an obliquely arranged rotary kiln fitted with devices for moving solids and treated therein with flue gas in countercurrent at temperatures from 250° up to 500° C. for 1 to 60 minutes. The rotary kiln is here insulated in such a way that its outside wall temperature is less than 60° C. Finally, the amorphous sodium silicate emerging from the rotary kiln is comminuted by means of a mechanical crusher to grain sizes of 0.1 to 12 mm.

reactant | quartz sand | O=[Si]=O | O2Si
reactant | sodium hydroxide | [OH-].[Na+]
reactant | waterglass | [O-][Si](=O)[O-].[Na+].[Na+]
solvent | water | O | H2O
product | sodium silicate | [Si]([O-])([O-])([O-])[O-].[Na+].[Na+].[Na+].[Na+] | InChI=1S/4Na.O4Si/c;;;;1-5(2,3)4/q4*+1;-4
